US06423713B1
Ethyl [4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinyl]carbamate
To a suspension of 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine prepared in accordance with Example A-306 (0.26 g, 0.001 mol) in 5 mL of pyridine was added ethyl chloroformate dropwise. After the addition, the clear solution was stirred at room temperature for 6 hours. Water was added and the aqueous phase was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and filtered. The filtrate was concentrated and the crude was triturated with ether to give 0.15 g of product, ethyl[4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinyl]carbamate, as a white solid (46% yield), mp: 163-165° C.; Anal. Calc'd for C16H14FN5O2: C, 58.71; H, 4.31; N, 21.04. Found: C, 59.22; H, 4.51; N, 21.66.

reactant | 4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinamine | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)N | C13H10FN5
reactant | A-306 | 0.001 mol, 0.26 g | C1=CN=C(N=C1)NS(=O)(=O)C2=CC=C(C=C2)N | C10H10N4O2S
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
reactant | Water | O | H2O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Ethyl [4-[3-(4-fluorophenyl)-1H-pyrazol-4-yl]-2-pyrimidinyl]carbamate | 0.15 g | FC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)NC(OCC)=O | C16H14FN5O2
